US03935311
5-Methoxycarbonyloxymethyl-2-methyl-3-pyridinol (No. 87)
To a solution of 1.8 g. of 5-hydroxymethyl-2-methyl-3-pyridinol hydrochloride in 10 ml. of pyridine was added 1.0 g. of methyl chlorocarbonate dropwise under cooling. After standing overnight, the reaction mixture was poured into ice water and extracted with ethyl acetate. The extract was washed with water, dried and the solvent was distilled off to give 1.0 g. of an oily substance. The oily substance was purified by column chromatography (silica gel 20 g.) and 0.6 g. of the desired product as colorless crystal was obtained from the eluate with benzene-ethyl acetate (3:7) and recrystallized from ethyl acetate and n-hexane.

reactant | 5-hydroxymethyl-2-methyl-3-pyridinol hydrochloride | Cl.OCC=1C=C(C(=NC1)C)O
reactant | methyl chlorocarbonate | C(OC)(=O)Cl | C2H3ClO2
solvent | pyridine | N1=CC=CC=C1 | C5H5N
product | 5-Methoxycarbonyloxymethyl-2-methyl-3-pyridinol | COC(=O)OCC=1C=C(C(=NC1)C)O | C9H11NO4
